US05877120
Preparation of 7-(4,6-dimethoxypyrimidin-2-yl)-4-(2-furyl)-7-hydroxyfuro[3,4-b]pyridin-5(7H)one (Compound No. 229)
0.42 g of 7-cyano-7-(4,6-dimethoxypyrimidin-2-yl)-4-(2-furyl)furo[3,4-b]pyridin-5(7H)one was weighed out, and 14 ml of tetrahydrofuran was added thereto. The mixture was stirred under cooling with ice. 14 ml of 0.25N sodium hydroxide aqueous solution was added thereto dropwise, and the mixture was stirred at room temperature for 30 minutes. The mixture was poured into water, and the aqueous layer was washed with ethyl acetate twice, acidified with 10% hydrochloric acid and extracted with 100 ml of ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off, and the resulting crystals were washed with methyl alcohol to obtain 0.40 g (yield 94.6%) of the desired compound as yellow crystals. m.p.: 198°-204° C.

reactant | 7-cyano-7-(4,6-dimethoxypyrimidin-2-yl)-4-(2-furyl)furo[3,4-b]pyridin-5(7H)one | 0.42 g | C(#N)C1(OC(C=2C1=NC=CC2C=2OC=CC2)=O)C2=NC(=CC(=N2)OC)OC | C18H12N4O5
reactant | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 0.25N, 14 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 7-(4,6-dimethoxypyrimidin-2-yl)-4-(2-furyl)-7-hydroxyfuro[3,4-b]pyridin-5(7H)one | 0.40 g, yield 94.6% | COC1=NC(=NC(=C1)OC)C1(OC(C=2C1=NC=CC2C=2OC=CC2)=O)O | C17H13N3O6
